US08703784B2
tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate (1.27 g, 2.06 mmol) in EtOAc (50 mL) was hydrogenated at 50° C. using 10% Pd/C catalyst (200 mg) and 1 atmospheric hydrogen pressure for 16 h. After filtering off the catalyst, the solvent was evaporated off under reduced pressure and crude material was purified by column chromatography (0-40% hexane-ethyl acetate) to give product tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]nonane-9-carboxylate (1.1 g) as syn- and anti-mixture. HPLC-MS tR=3.15 min (UV254 nm). Mass calculated for formula C30H53N5O5Si2 619.3; observed MH+ (LCMS) 620.2 (m/z).

reactant | tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate | 2.06 mmol, 1.27 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)C2=CC1COCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C30H51N5O5Si2
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]nonane-9-carboxylate | 1.1 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)C2CC1COCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C30H53N5O5Si2
